US09085555B2
1-{2-[(1R,3S,5R)-3-(3-Chloro-2-fluoro-benzylcarbamoyl)-2-aza-bicyclo[3.1.0]hex-2-yl]-2-oxo-ethyl}-1H-indole-3-carboxylic acid amide
The mixture of (1R,3S,5R)-2-aza-bicyclo[3.1.0]hexane-3-carboxylic acid 3-chloro-2-fluoro-benzylamide trifluoroacetate (70.2 mg, 0.183 mmol), (3-carbamoyl-indol-1-yl)acetic acid [1016689-54-5] (40.0 mg, 0.183 mmol), HBTU (104 mg, 0.275 mmol) and DIPEA (0.128 mL, 0.733 mmol) in CH2Cl2 (8 mL) was stirred at RT over 60 h. The reaction mixture was then diluted with CH2Cl2, and the solution was washed twice with 0.1N HCl. The precipitate formed in the aqueous layer was filtered off, washed with CH2Cl2 and dried in vacuo to afford the title product as a white solid. MS (LC/MS): 469 [M+H]+, 491 [M+Na]+; tR (HPLC conditions b): 3.56 min.

reactant | (1R,3S,5R)-2-aza-bicyclo[3.1.0]hexane-3-carboxylic acid 3-chloro-2-fluoro-benzylamide trifluoroacetate | 0.183 mmol, 70.2 mg | FC(C(=O)O)(F)F.ClC=1C(=C(CNC(=O)[C@H]2N[C@@H]3C[C@@H]3C2)C=CC1)F
reactant | (3-carbamoyl-indol-1-yl)acetic acid | 0.183 mmol, 40.0 mg | C(N)(=O)C1=CN(C2=CC=CC=C12)CC(=O)O | C11H10N2O3
reactant | HBTU | 0.275 mmol, 104 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 0.733 mmol, 0.128 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 8 mL | C(Cl)Cl | CH2Cl2
product | 1-{2-[(1R,3S,5R)-3-(3-Chloro-2-fluoro-benzylcarbamoyl)-2-aza-bicyclo[3.1.0]hex-2-yl]-2-oxo-ethyl}-1H-indole-3-carboxylic acid amide | ClC=1C(=C(CNC(=O)[C@H]2N([C@@H]3C[C@@H]3C2)C(CN2C=C(C3=CC=CC=C23)C(=O)N)=O)C=CC1)F | C24H22ClFN4O3
